US07585886B2
A mixture of 750 mg of tert-butyl {[(3R,4S)-1-acryloyl-4-phenylpyrrolidin-3-yl]methyl}[(1R)-1-(1-naphthyl)ethyl]carbamate and 8 ml of an ethanol:chloroform (4:1) mixed solvent was mixed with 487 mg of ethyl isonipecotate and stirred at 60° C. for 6Hours, and the reaction solution was concentrated under a reduced pressure. The thus obtained residue was purified by a silica gel column chromatography (chloroform-methanol) to obtain 700 mg of ethyl 1-{[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]-3-oxopropyl}piperidine-4-carboxylate as a pale yellow amorphous substance. By carrying out the Boc-elimination from the thus obtained compound in the same manner as in Example 2, ethyl 1-{3-[(3S,4S)-3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]-3-oxopropyl}pyridine-4-carboxylate dihydrochloride was obtained.

reactant | tert-butyl {[(3R,4S)-1-acryloyl-4-phenylpyrrolidin-3-yl]methyl}[(1R)-1-(1-naphthyl)ethyl]carbamate | 750 mg | C(C=C)(=O)N1C[C@@H]([C@H](C1)C1=CC=CC=C1)CN(C(OC(C)(C)C)=O)[C@H](C)C1=CC=CC2=CC=CC=C12 | C31H36N2O3
reactant | ethyl isonipecotate | 487 mg | N1CCC(C(=O)OCC)CC1 | C8H15NO2
solvent | ethanol chloroform | 8 ml | C(C)O.C(Cl)(Cl)Cl
product | ethyl 1-{[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]-3-oxopropyl}piperidine-4-carboxylate | 700 mg | C(C)(C)(C)OC(=O)N([C@H](C)C1=CC=CC2=CC=CC=C12)C[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C(CCN1CCC(CC1)C(=O)OCC)=O | C39H51N3O5
